US05036107
3-Cyclohexyl-3-hydroxy-3-phenylprop-1-yne
Lithium acetylide (47.84 g, 0.52 mol) was added to 70 ml of dry tetrahydrofuran (THF). The solution was cooled to 0° C. and a solution of cyclohexyl phenyl ketone in 100 ml of dry THF was added over a period of 15 minutes with stirring. The solution was allowed to warm to room temperature and stirred for 16 hours. The solution was then cooled to 0° C. and 50 ml of a 5N HCl solution was added with. The solution was then warmed to room temperature and 200 ml of water was added. The solution was transferred to a separatory funnel and washed with ether. The ether washes were combined and dried over sodium sulfate. Upon removal of the ether under vacuum and vacuum distillation of the crude product a pale yellow oil was isolated (60.33 g, 82.9%). Bp 111°-14° C. (0.8 mm). 1H NMR (CDCl3) δ7.7-7.2(m, 5H), 2.6(s, 1H), 2.3(s, 1H), 2.1-0.9(m, 11H). IR (neat) 3433, 3304, 2111, 1448, 1016 cm-1 .

reactant | Lithium acetylide | 0.52 mol, 47.84 g | [C-]#[C-].[Li+].[Li+]
reactant | cyclohexyl phenyl ketone | C1(=CC=CC=C1)C(=O)C1CCCCC1 | C13H16O
reactant | HCl | 5N | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3-Cyclohexyl-3-hydroxy-3-phenylprop-1-yne | C1(CCCCC1)C(C#C)(C1=CC=CC=C1)O | C15H18O
